US06903126B2
b) 6-(3-Phenylamino-4-nitrophenyl)oxyhexanoic acid methyl ester
13.3 g of 3-phenylamino-4-nitrophenol was reacted with 6-bromohexanoic acid methyl ester according to general operating instructions 2. 11.2 g was obtained.

reactant | 3-phenylamino-4-nitrophenol | 13.3 g | C1(=CC=CC=C1)NC=1C=C(C=CC1[N+](=O)[O-])O | C12H10N2O3
reactant | 6-bromohexanoic acid methyl ester | COC(CCCCCBr)=O | C7H13BrO2
product | 6-(3-Phenylamino-4-nitrophenyl)oxyhexanoic acid methyl ester | COC(CCCCCOC1=CC(=C(C=C1)[N+](=O)[O-])NC1=CC=CC=C1)=O | C19H22N2O5
